Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Demerol / Ativan
 
Attending: ___
 
Chief Complaint:
Abdominal Pain, N/V
 
Major Surgical or Invasive Procedure:
1. EGD

 
History of Present Illness:
___ yo man w DM1 c/b neuropathy, gastroparesis, s/p pancreas 
transplant in ___ on sirolimus and tacrolimua, now presents 
with nausea/vomiting and abdominal pain.  
.  
He was admitted at ___ 5 days ago with the same symptoms. On that 
admission, he improved with antiemetics (zofran, compazine, 
phenergan) and morphine. IV fluids were given until the patient 
was able to tolerate PO. On the last admission his narcotic 
regimen was decreased, since it was though that it was 
exacurbating his gastroparesis.  
.  
After this discharge he was doing well but three days ago he 
reexperienced nausea, vomiting and abdominal pain. The pain is 
described as diffuse diffuse and sharp, ___ in severity. He 
denies any hematemesis or bilious emesis. He denies any fever, 
chills, constipation, diarrhea, hematochezia or melena. These 
became progressively worse and he presented to the ED.  
.  
In the ED, initial vital signs were T 97.6, HR 78, BP 154/82, RR 
16, satting 100%RA. Labs showed lactate of 7 and Phos 0.6. Chem7 
showed bicarb of 17 with AG 21. Patient got a total of 7mg IV 
dilaudid, zofran, reglan, and 4L normal saline as well as NaP04. 
His lactate trended down to 2.7 and Phos normalized. Vitals at 
time of transfer were T 99, HR 74, BP 160/88, RR 16, O2 sat 
99%RA.  
.  
Currently, he continues to have nausea with small amount of 
vomitus that is dark brown in appearence. No coffee grown or 
frank blood seen. Reports his abdominal pain is similar in 
location and quality to past flares. He denies urinary symptoms. 
He denies cough, shortness of breath, sputum production, or 
fever.  
.  
Renal impressed that this was the same presentation as his 
previous episodes of gastroparesis and may have been affected by 
his narcotic use. They recommended continuing immunosupressants, 
advancing to clears and limiting narcotic use. GI impressed that 
his symptoms are likely due to gastroparesis, but still supected 
SBO or PUD. They were also concered about possible MW tear.  
.  
ROS was otherwise negative. The pt denied recent unintended 
weight loss, fevers, night sweats, chills, headaches, dizziness 
or vertigo, changes in hearing or vision, neck stiffness, 
lymphadenopathy, hematemesis, coffee-ground emesis, dysphagia, 
odynophagia, heartburn, nausea, vomiting, diarrhea, 
constipation, steatorrhea, melena, hematochezia, cough, 
hemoptysis, wheezing, shortness of breath, chest pain, 
palpitations, dyspnea on exertion, increasing lower extremity 
swelling, orthpnea, paroxysmal nocturnal dyspnea, leg pain while 
walking, joint pain.  

 
Past Medical History:
Pancreatic transplant ___  
DM2 c/b gastroparesis, peripheral neuropathy  
Hep C  
Glaucoma  
?Seizures  
Right knee surgery 

 
Social History:
___
Family History:
NC
 
Physical Exam:
Vitals: 98 128/82 85 18 98RA  
General: Awake, alert, complaining of pain and is not fully 
cooperative with examination.  
HEENT: NCAT, PERRL, EOMI, no scleral icterus, MMM, no lesions 
noted in OP  
Neck: supple, no significant JVD or carotid bruits appreciated  
Pulmonary: Lungs CTA bilaterally, no wheezes, ronchi or rales  
Cardiac: RR, nl S1 S2, no murmurs, rubs or gallops appreciated  
Abdomen: TTP, soft, ND, normoactive bowel sounds, no masses or 
organomegaly noted  
Extremities: No edema, 2+ radial, DP pulses b/l  
Skin: multiple tatoos. 

 
Pertinent Results:
___ 02:00PM BLOOD WBC-8.8# RBC-4.46* Hgb-12.7* Hct-37.7* 
MCV-85 MCH-28.4 MCHC-33.6 RDW-13.6 Plt ___
___ 05:45AM BLOOD WBC-5.1 RBC-3.58* Hgb-10.2* Hct-30.6* 
MCV-85 MCH-28.6 MCHC-33.4 RDW-13.7 Plt ___
___ 06:35AM BLOOD WBC-6.1 RBC-4.39* Hgb-12.5* Hct-37.6* 
MCV-86 MCH-28.4 MCHC-33.2 RDW-13.2 Plt ___
___ 02:00PM BLOOD Glucose-137* UreaN-15 Creat-0.9 Na-143 
K-4.1 Cl-105 HCO3-17* AnGap-25*
___ 06:35AM BLOOD Glucose-97 UreaN-9 Creat-0.7 Na-137 K-3.4 
Cl-98 HCO3-24 AnGap-18
___ 02:00PM BLOOD ALT-11 AST-25 AlkPhos-109 TotBili-0.4
___ 07:30PM BLOOD Amylase-74
___ 06:35AM BLOOD Amylase-40
___ 06:35AM BLOOD Lipase-22
___ 05:45AM BLOOD tacroFK-1.5* rapmycn-2.5*
___ 05:45AM BLOOD ASA-NEG Acetmnp-NEG* Bnzodzp-POS 
Barbitr-NEG Tricycl-NEG
___ 06:35AM BLOOD rapmycn-3.2*
___ 06:35AM BLOOD tacroFK-6.___ssessment and Plan: ___ year old male with past history of DMI 
c/b neuropathy and gastroparesis, s/p pancreas transplant ___ 
now with recurrent admissions for abdominal pain and nausea and 
vomitting.
.
# Abdominal Pain - Mr. ___ has had ___ admissions over the 
past year s/p pancreas transplant for abdominal pain, nausea, 
vomiting and inability to tolerate PO intake.  On this 
admission, he was admitted with similar presentation.  He was 
made NPO, placed on IV maintenance fluids and continued on 
pro-motility agents (IV) and treated with Dilaudid 0.5 IV prn.  
KUB on admission showed no evidence of perforation or 
obstrution.  CT Scan of abdomen showed a very small fluid 
collection at the head of the transplant pancreas that was 
stable isnce previous scans.  while likely post-surgical, mild 
edematous pancreatitis could not be ruled out.  EGD showed 
esophagitis and gastritis and GI recommeneded BID PPI and 
carafate solution for treatment.   There was concern for 
possible transplant rejection so tacro and siroliums levels were 
checked and determined to be low.  Solumedrol IV was given for 
three days until Tacrolimus and Sirolimus levels added to 9, 
which they did on day of discharge.  Due to lack of findings on 
imaging and studies, it  was felt that abdominal pain was most 
likely ___ long standing gastroparesis.  Abdominal pain resolved 
on the day of discharge, patient's diet was advanced and he 
tolerated a regular diet with no nausea or emesis.  He was 
discharge with a 2 week supply of dilaudid to follow-up with his 
transplant physician.  
.
# S/P Pancreatic Transplant - Transplant ___, currently on 
tacrolimus and sirolimus. Compliance was questionable prior to 
admission due to emesis.  Prograf levels were determined to be 
subtherapeutic on admission.  Due to inability to tolerate PO, 
prograf capsules were broken in half and given sublingually.  
Additionally, Solumedrol IV was given for three days while 
immunosupressant levels were low.  On day of discharge, patient 
was tolerating PO with no emesis or nausea x 24 hours.  Patient 
was instructed to take Prograf SL in the future if unable to 
take medications due to emesis or nausea.
.
# DM - s/p pancreatic transplant, see above. stable.

 
Medications on Admission:
-tacrolimus 3 mg bid  
-Bactrim DS qday  
-sirolimus 3 mg qd  
-asa 81 mg  
-omeprazole 20mg BID  
-Diazepam 10mg q6h prn for anxiety  
-Dronabinol 10mg tid  
-duloxetine 90mg qday  
-gabapentin 600mg q8h  
-metoclopramide 20mg qidachs  
-topiramate 25mg qday prn for headaches  
-dilaudid prn  
-compazine 10mg q6h prn  
-zofran prn
-fentanyl 50 mcg patch

 
Discharge Medications:
1. Tacrolimus 1 mg Capsule Sig: Three (3) Capsule PO twice a 
day: If you are unable to tolerate anything by mouth, break 
capsule apart and place under tongue.  
2. Sirolimus 1 mg Tablet Sig: Three (3) Tablet PO DAILY (Daily). 
 
3. Trimethoprim-Sulfamethoxazole 80-400 mg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
4. Duloxetine 30 mg Capsule, Delayed Release(E.C.) Sig: Three 
(3) Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
5. Gabapentin 300 mg Capsule Sig: Two (2) Capsule PO Q8H (every 
8 hours).  
6. Metoclopramide 10 mg Tablet Sig: Two (2) Tablet PO QIDACHS (4 
times a day (before meals and at bedtime)).  
7. Topiramate 25 mg Tablet Sig: One (1) Tablet PO once a day as 
needed for headache.  
8. Compazine 10 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours as needed for nausea.  
9. Fentanyl 50 mcg/hr Patch 72 hr Sig: One (1) Patch 72 hr 
Transdermal Q72H (every 72 hours).  
10. Dronabinol 2.5 mg Capsule Sig: Four (4) Capsule PO TID (3 
times a day) as needed for nausea.  
11. Diazepam 10 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours as needed for anxiety.  
12. Hydromorphone 2 mg Tablet Sig: One (1) Tablet PO Q4H (every 
4 hours) as needed for pain for 14 days.
Disp:*84 Tablet(s)* Refills:*0*
13. Sucralfate 1 gram Tablet Sig: One (1) Tablet PO TID (3 times 
a day) for 14 days: dissolve in 10mL water and drink.
Disp:*42 Tablet(s)* Refills:*0*
14. Zofran 4 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours as needed for nausea.  
15. Aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day.  
16. Omeprazole 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO twice a day for 30 days.
Disp:*60 Capsule, Delayed Release(E.C.)(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
1. Abdominal Pain - NOS
2. s/p pancreas transplant

 
Discharge Condition:
Stable

 
Discharge Instructions:
You were admitted to the hospital with abdominal pain, nausea 
and vomitting.  You were given medication to control your pain 
and other symptoms.  Imaging of your abdomen was unable to 
identify a source of your pain.  An EGD of your esophagus and 
stomach showed some ulcerations in your esophogus.  You were 
given IV fluids when you couldn't tolerate anything by mouth.  
Please call on ___ to make an appointment with 
Dr. ___ one week for follow-up after your 
hospitalization.

Medication Changes:
CHANGE Dilaudid to 2mg by mouth every 4 hours as needed for pain
START Sucralfate 1g disolved in 10 ml water by mouth three times 
a day
CHANGE Omeperazole to 40 mg PO by mouth twice a day
Continue all other medications as previously prescribed.

If you experience worsening abdominal pain, fever greater than 
101, chest pain, vomitting, shortness of breath, vomitting blood 
or any other symptom that concerns you, please call Dr. 
___ office or go to the emergency room.
 
Followup Instructions:
___